US05102890
The procedure is as in Example 1, but starting with 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (4.95 g) in anhydrous dimethylformamide (60 cc), phenylacetic acid (2.05 g) and 1,8-diazabicyclo[5.4.0]-undec-7-ene (2.25 g). After recrystallization in ethyl acetate, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl phenylacetate (4.4 g), m.p. 222°-224° C., is obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 4.95 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | phenylacetic acid | 2.05 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 1,8-diazabicyclo[5.4.0]-undec-7-ene | 2.25 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 60 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl phenylacetate | 4.4 g | C1(=CC=CC=C1)CC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C24H16ClN3O3
